US05864039
4-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)butylamine (1.05 g) as starting compound was reacted and treated in the same manner as in Example 1 using acetyl chloride (0.30 ml) and 4-amino-5-chloro-2-methoxybenzoic acid (0.78 g) to give N-(1-(4-acetylaminobutyl)pyrrolidin-3-ylmethyl)-4-amino-5-chloro-2-methoxybenzamide.

reactant | 4-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)butylamine | 1.05 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCCN | C14H29N3O2
reactant | acetyl chloride | 0.30 ml | C(C)(=O)Cl | C2H3ClO
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.78 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | N-(1-(4-acetylaminobutyl)pyrrolidin-3-ylmethyl)-4-amino-5-chloro-2-methoxybenzamide | C(C)(=O)NCCCCN1CC(CC1)CNC(C1=C(C=C(C(=C1)Cl)N)OC)=O | C19H29ClN4O3
